US07601844B2
(R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride (338 mg, 0.90 mmol), THF (5 mL), and 6-chloronicotinoyl chloride (132 mg, 0.75 mmol) was cooled to 0° C. and DIPEA (233 mg, 1.80 mmol) was added dropwise. The reaction was allowed to warm to rt and stir overnight. The solvent was then removed and residue was partitioned between methylene chloride and saturated sodium bicarbonate. The layers were separated and the organic extracts were dried, filtered, and concentrated to yield 6-chloro-N—((R)-1-((S)-4-(chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)nicotinamide as a white solid.

reactant | (R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one hydrochloride | 0.90 mmol, 338 mg | Cl.N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C
reactant | 6-chloronicotinoyl chloride | 0.75 mmol, 132 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | DIPEA | 1.80 mmol, 233 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-chloro-N—((R)-1-((S)-4-(chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl)nicotinamide | ClC1=NC=C(C(=O)N[C@@H](C(=O)N2CC([C@](CC2)(O)C2=C(C=CC=C2)Cl)(C)C)C(C)C)C=C1 | C24H29Cl2N3O3
